US06545017B1
A solution of 4-(2-aminoethyl)-1-benzylpiperidine (9.88 g, 45.2 mmol) in N,N-dimethylformamide was added dropwise to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (10.00 g, 45.2 mmol) and triethylamine (12.6 mL, 90.5 mmol) in N,N-dimethylformamide (320 mL). The reaction mixture was allowed to stir at ambient temperature for about 20 hours and then it was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organics were combined, washed with brine, dried over sodium sulfate and then concentrated under reduced pressure to provide an orange oil. The oil was purified by flash chromatography (400 mL silica gel eluting initially with 10% ethyl acetate in hexane, then with 15% ethyl acetate in hexane and finally with 40% ethyl acetate in hexane) to provide 11.00 g of N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine.

reactant | 4-(2-aminoethyl)-1-benzylpiperidine | 45.2 mmol, 9.88 g | NCCC1CCN(CC1)CC1=CC=CC=C1 | C14H22N2
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 45.2 mmol, 10.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | triethylamine | 90.5 mmol, 12.6 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 320 mL | CN(C=O)C | C3H7NO
product | N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine | 11.00 g | C(C1=CC=CC=C1)N1CCC(CC1)CCNC1=C(C(=NC(=C1C)C)Cl)[N+](=O)[O-] | C21H27ClN4O2
